US03957790
N-3,3-Diphenylpropylpiperazine in the amount of 2.8 g (0.01 mole), 2.17 g (0.01 mole) of 3,4,5-trimethoxybenzyl chloride, 0.51 g (0.005 mole) of triethylamine, and 1.4 g (0.01 mole) of potassium carbonate were mixed with 20 ml of toluene, and the resulting mixture was heated at the refluxing temperature for 2 hours. The reaction liquid was left to cool, washed by shaking with water, and then the organic liquid layer was concentrated under reduced pressure to obtain 3.8 g (82.5% yield) of oily 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine.

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 3,4,5-trimethoxybenzyl chloride | 0.01 mole, 2.17 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | triethylamine | 0.005 mole, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,3-diphenylpropyl)-4-(3,4,5-trimethoxybenzyl)piperazine | 3.8 g, 82.5% yield | C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=CC=C1 | C29H36N2O3
